US06455528B1
(3) Synthesis of 1-(4-Fluoro-2-methoxyphenyl)piperazine Dihydrochloride
To a solution of 4-fluoro-2-methoxyaniline (3.0 g) in orthoxylene (50 ml) was added bis(2-chloroethyl)amine hydrochloride (3.8 g) and the mixture was refluxed under heating for 13 hr. The reaction mixture was poured into water and washed with isopropyl ether. To the aqueous layer was added an aqueous sodium hydroxide solution to make it alkaline (pH 12) and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate and the solvent was evaporated to give a black oil. The oil was dissolved in methanol and conc. hydrochloric acid was added and the mixture was concentrated. To this concentrated solution added tetrahydrofuran to give the title compound (3.1 g) as pale-purple crystals.

reactant | 4-fluoro-2-methoxyaniline | 3.0 g | FC1=CC(=C(N)C=C1)OC | C7H8FNO
reactant | bis(2-chloroethyl)amine hydrochloride | 3.8 g | Cl.ClCCNCCCl
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | orthoxylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | methanol | CO | CH4O
product | 1-(4-Fluoro-2-methoxyphenyl)piperazine Dihydrochloride | 3.1 g | Cl.Cl.FC1=CC(=C(C=C1)N1CCNCC1)OC | InChI=1S/C11H15FN2O.2ClH/c1-15-11-8-9(12)2-3-10(11)14-6-4-13-5-7-14;;/h2-3,8,13H,4-7H2,1H3;2*1H
